US09388189B2
(S)-5-Methyl-2-(1-((5-(1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.08 mmol) was treated with 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)-1H-pyrazole (58 mg, 0.21 mmol), sodium carbonate (22 mg, 0.21 mmols), and bis(triphenylphosphine)palladium(II) dichloride (6 mg, 0.01 mmol) in 1,2-dimethoxyethane (2.0 ml) and water (0.50 ml) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100%, dichloromethane diethyl ether) to give 38 mg (45% yield, 66% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 50 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)-1H-pyrazole | 0.21 mmol, 58 mg | CN1N=C(C=C1B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C11H16BF3N2O2
reactant | sodium carbonate | 0.21 mmols, 22 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2.0 ml | COCCOC | C4H10O2
solvent | water | 0.50 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.01 mmol, 6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-5-Methyl-2-(1-((5-(1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 45% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=CC(=NN1C)C(F)(F)F)COCC[Si](C)(C)C | C32H36F3N9O2Si
